US04889851
A mixture of 2-(4-chlorophenyl)-6-hydroxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (678 mg), ethyl 2-bromopropionate (362 mg), and potassium carbonate (207 mg) in dry N,N-dimethyl formamide (2 ml) was stirred overnight at ambient temperature. The mixture was poured into water and extracted twice with ethyl acetate. The organic layers were washed with water, dried, and evaporated under reduced pressure. The residue was crystallized from n-hexane to yield 2-(4-chlorophenyl)-6-[1-(ethoxycarbonyl)ethoxy]-4-methyl-2H-1,2,4-benzothiadiazine -3(4H)-one 1,1-dioxide (816 mg). (R,S mixture)

reactant | 2-(4-chlorophenyl)-6-hydroxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 678 mg | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)O)(=O)=O | C14H11ClN2O4S
reactant | ethyl 2-bromopropionate | 362 mg | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenyl)-6-[1-(ethoxycarbonyl)ethoxy]-4-methyl-2H-1,2,4-benzothiadiazine -3(4H)-one 1,1-dioxide | 816 mg | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OC(C)C(=O)OCC)(=O)=O | C19H19ClN2O6S
